US08058045B2
(E)-5-(5-(3-methoxyprop-1-enyl)-4-(1-methylpiperidin-4-ylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile (Y-123)
A solution of (E)-5-(3-methoxyprop-1-enyl)-N4-(1-methylpiperidin-4-yl)pyridine-2,4-diamine (0.090 g, 0.32 mmol), 2-bromo-cyanopyrazine (0.060 g, 0.32 mmol), BINAP (0.007 g, 0.02 mmol), sodium tert-butoxide (0.043 g, 0.45 mmol), tris(dibenzylideneacetone)dipalladium chloroform complex (0.013 g, 0.01 mmol) in dioxane (3 mL) was stirred at room temperature under nitrogen for 10 min, then heated for 30 min at 90° C. under microwave irradiation. The crude reaction mixture was purified by ion exchange on SCX-II acidic resin (1 g) eluting with methanol/dichloromethane (1/1), then 2M ammonia-methanol. The basic fractions were combined and the solvent was removed in vacuo. The crude mixture was purified by preparative thin layer chromatography, eluting with methanol/dichloromethane (1/9), to give the title compound as a yellow solid (0.004 g, 3%).

reactant | (E)-5-(3-methoxyprop-1-enyl)-N4-(1-methylpiperidin-4-yl)pyridine-2,4-diamine | 0.32 mmol, 0.090 g | COC/C=C/C=1C(=CC(=NC1)N)NC1CCN(CC1)C | C15H24N4O
reactant | 2-bromo-cyanopyrazine | 0.32 mmol, 0.060 g | BrC1=NC=CN=C1C#N | C5H2BrN3
reactant | BINAP | 0.02 mmol, 0.007 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.45 mmol, 0.043 g | CC(C)([O-])C.[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (E)-5-(5-(3-methoxyprop-1-enyl)-4-(1-methylpiperidin-4-ylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile | 0.004 g, 3% | COC/C=C/C=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)NC1CCN(CC1)C | C20H25N7O
